US07148226B2
3-Cyclohexyl-thiopropionic acid S-pyridin-2-yl ester
3-Cyclohexylpropionic acid (1 g, 6.40 mmol), triphenylphosphine (2.18 g, 8.32 mmol) and 2,2′-dipyridyl disulfide (1.83 g, 8.32 mmol) were combined successively in CH2Cl2 (20 mL). The reaction mixture was stirred 1 h and then loaded directly onto a column for purification by flash chromatography (20% EtOAc in hexanes) to give a residue. This residue was washed with hexanes (20 mL) and the solid, partially crystalline material was collected by filtration and air dried to give the product (1.43 g, 90%) as a white solid.

reactant | 3-Cyclohexylpropionic acid | 6.40 mmol, 1 g | C1(CCCCC1)CCC(=O)O | C9H16O2
reactant | triphenylphosphine | 8.32 mmol, 2.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,2′-dipyridyl disulfide | 8.32 mmol, 1.83 g | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-Cyclohexyl-thiopropionic acid S-pyridin-2-yl ester | 1.43 g, 90% | N1=C(C=CC=C1)SC(CCC1CCCCC1)=O | C14H19NOS
